US08470819B2
Step A: Preparation of methyl 6-chloro-5-nitronicotinate (i-2a)
(Trimethylsilyl)diazomethane (8.25 mL of a 2.00 M solution in hexanes, 16.5 mmol) was added in three portions to a stirred solution of 6-chloro-5-nitronicotinic acid (1.00 g, 4.95 mmol) in methanol (12.0 mL) and DCM (24.0 mL) at 0° C. The reaction mixture was quenched with TPA and concentrated in vacuo to afford the title compound i-2a. m/z (ES) 217 (MH)+. 1H NMR (500 MHz, CDCl3): δ 9.20 (d, 1H, J=2.1 Hz), 8.79 (d, 1H, J=2.1 Hz), 4.05 (s, 3H).

reactant | (Trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 6-chloro-5-nitronicotinic acid | 4.95 mmol, 1.00 g | ClC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H3ClN2O4
solvent | methanol | 12.0 mL | CO | CH4O
solvent | DCM | 24.0 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-chloro-5-nitronicotinate | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
